US05495020
To ethyl 7-(3-ethoxycarbonylamino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5, 8-dimethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (130 mg) is added 5% aqueous potassium hydroxide solution (3.2 ml) and the mixture is refluxed for 4 hours. After cooling, the reaction mixture is made acidic with acetic acid and then made weak alkaline with potassium carbonate. The resultant is extracted with dichloroethane and the extract is dried, followed by distillating the solvent under reduced pressure. To the residue is added diethyl ether and the precipitated crystals are filtered to give 7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5, 8-dimethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (30 mg), m.p. 96°-98° C., as pale yellow needles.

reactant | ethyl 7-(3-ethoxycarbonylamino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5, 8-dimethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 130 mg | C(C)OC(=O)NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)OCC)=O)C)F | C24H30FN3O5
reactant | potassium hydroxide | 3.2 ml | [OH-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5, 8-dimethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 30 mg | NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)C)F | C19H22FN3O3
